US07323466B2
To a cooled solution of the intermediate (d), (R)-2-(4-benzyloxybenzyl)morpholine (4.97 g, 17.6 mmol) in dichloromethane (150 mL), was added di-tertiary-butyldicarbonate (4.4 mL, 19.3 mmol). The mixture was stirred at ambient temperature for 16 h, the solvent was evaporated and the residual oil crystallized on trituration with iso-hexane. The product, intermediate (c), N-Boc-(R)-2-(4-benzyloxybenzyl)morpholine, was isolated by filtration as a pale yellow solid (4.92 g, 73%).

reactant | (R)-2-(4-benzyloxybenzyl)morpholine | 17.6 mmol, 4.97 g | C(C1=CC=CC=C1)OC1=CC=C(C[C@@H]2CNCCO2)C=C1 | C18H21NO2
reactant | di-tertiary-butyldicarbonate | 19.3 mmol, 4.4 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N-Boc-(R)-2-(4-benzyloxybenzyl)morpholine | C(=O)(OC(C)(C)C)N1C[C@H](OCC1)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C23H29NO4
